US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridine (250 mg) is dissolved in methylene chloride (2.0 ml), and thereto is added triethylamine (118 μl), then added triphosgene (50 mg) under water-cooling. The mixture is stirred at the same temperature for 30 minutes under nitrogen flow. To the reaction mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is dissolved in a mixture of tetrahydrofuran (2.5 ml) and N,N-dimethylformamide (1 ml), and thereto are added O-methylhydroxylamine hydrochloride (70 mg) and triethylamine (230 μl). The mixture is stirred at room temperature for 4 days under nitrogen flow. To the reaction mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=2:1→chloroform:methanol=19:1) to give (2R,4S)-4-{[3,5-bis-(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid methoxyamide (57 mg). MS (m/z): 670 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridine | 250 mg | FC(C=1C=C(CC2=NC(=NC=C2N2CCOCC2)N[C@H]2C[C@H](NC3=CC=C(N=C23)OC)CC)C=C(C1)C(F)(F)F)(F)F | C28H30F6N6O2
reactant | triethylamine | 118 μl | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | (2R,4S)-4-{[3,5-bis-(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid methoxyamide | 57 mg | CONC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C30H33F6N7O4
